US07217723B2
5-(1-Hydroxyimino-2-methylpropyl)thiophene-3-sulfonic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide
To a mixture solution of 5-isobutyrylthiophene-3-sulfonic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide (the compound of Preparation Example 88) (30 mg) in ethanol (2 mL) and water (1 mL) was added hydroxylamine.hydrochloride (11 mg) and sodium acetate (13 mg). After heating and refluxing for 12 hours, the reaction solution was cooled to room temperature. The solution was diluted with water and extracted with ethyl acetate. This solution was washed with saturated sodium chloride water. The crude product that was obtained after drying with anhydrous sodium sulfate and removing the solvent by evaporation was purified by silica gel column chromatography (ethyl acetate/hexane), the title compound (a pale yellow viscous oily substance) (29 mg) was obtained as a mixture where (E):(Z)=1:1.

reactant | 5-isobutyrylthiophene-3-sulfonic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)C(C(C)C)=O)C | C17H20FNO3S2
reactant | hydroxylamine.hydrochloride | 11 mg | Cl.NO
reactant | sodium acetate | 13 mg | C(C)(=O)[O-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
product | 5-(1-Hydroxyimino-2-methylpropyl)thiophene-3-sulfonic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide | FC1=CC=C(C=C1)CCN(S(=O)(=O)C1=CSC(=C1)C(C(C)C)=NO)C | C17H21FN2O3S2
